US07470715B2
1-[3-(4-Methoxy-phenyl)-4-phenyl-isoxazol-5-yl]-cyclopropanecarboxylic acid ethyl ester
The title compound is prepared using the experimental procedure described in Example 147B except cyclopropane-1,1-dicarboxylic acid diethyl ester is used instead of cyclopropane-1,1-dicarboxylic acid dimethyl ester in Example 147A. The intermediate serving as the starting material for Example 147B is therefore 1-[5-hydroxy-3-(4-methoxy-phenyl)-4-phenyl-4,5-dihydro-isoxazol-5-yl]-cyclopropanecarboxylic acid ethyl ester instead of 1-[5-hydroxy-3-(4-methoxy-phenyl)-4-phenyl-4,5-dihydro-isoxazol-5-yl]-cyclopropanecarboxylic acid methyl ester.

reactant | cyclopropane-1,1-dicarboxylic acid diethyl ester | C(C)OC(=O)C1(CC1)C(=O)OCC | C9H14O4
reactant | 1-[5-hydroxy-3-(4-methoxy-phenyl)-4-phenyl-4,5-dihydro-isoxazol-5-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1(C(C(=NO1)C1=CC=C(C=C1)OC)C1=CC=CC=C1)O | C22H23NO5
product | 1-[3-(4-Methoxy-phenyl)-4-phenyl-isoxazol-5-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=C(C(=NO1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C22H21NO4
